US06399606B1
3-({(2R)-2-(Methoxycarbonyl)-2-[(phenylmethoxy)carbonylamino]ethylthio}methyl)-4-oxo-4-(3-pyridyl)butanoic Acid
The title compound was prepared from 3-({(2R)-2-[(fluoren-9-ylmethoxy)carbonylamino]-2-(methoxycarbonyl)ethylthio}methyl)-4-oxo-4-(3-pyridyl)butanoic acid and benzyl chloroformate as described in Example 16 at 12% yield; ESMS, (M+1)+460.

reactant | 3-({(2R)-2-[(fluoren-9-ylmethoxy)carbonylamino]-2-(methoxycarbonyl)ethylthio}methyl)-4-oxo-4-(3-pyridyl)butanoic acid | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](CSCC(CC(=O)O)C(C=1C=NC=CC1)=O)C(=O)OC | C29H28N2O7S
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | 3-({(2R)-2-(Methoxycarbonyl)-2-[(phenylmethoxy)carbonylamino]ethylthio}methyl)-4-oxo-4-(3-pyridyl)butanoic Acid | 12% yield | COC(=O)[C@H](CSCC(CC(=O)O)C(C=1C=NC=CC1)=O)NC(=O)OCC1=CC=CC=C1 | C22H24N2O7S
